US08106236B2
c) 4-Methyl-2-(3,5,3″,5″-tetrafluoro-[1,1′;3′,1″]terphenyl-5′-yl)-pentanoic acid methyl ester
A mixture of 2-(3,5-bis-trifluoromethanesulfonyloxy-phenyl)-4-methyl-pentanoic acid methyl ester (104 mg, 0.21 mmol), 3,5-difluorophenylboronic acid (82 mg, 0.52 mmol), K2CO3 solution (2M, 310 μL) and DME (2 mL) was purged with N2 three times before adding Pd(PPh3)4 (10 mg, 0.01 mmol). The mixture was heated at 95° C. overnight (followed by HPLC). The reaction was diluted with EtOAc (5 mL) and then washed successively with NaHCO3 solution and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to give the title compound as an oil. The residue was purified by flash chromatography (0-15% EtOAc in Petroleum ether) to give the title compound (75 mg, 84%) as a yellow oil.

reactant | 2-(3,5-bis-trifluoromethanesulfonyloxy-phenyl)-4-methyl-pentanoic acid methyl ester | 0.21 mmol, 104 mg | COC(C(CC(C)C)C1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C15H16F6O8S2
reactant | 3,5-difluorophenylboronic acid | 0.52 mmol, 82 mg | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | K2CO3 | 2M, 310 μL | C(=O)([O-])[O-].[K+].[K+]
reactant | DME | 2 mL | COCCOC | C4H10O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Methyl-2-(3,5,3″,5″-tetrafluoro-[1,1′;3′,1″]terphenyl-5′-yl)-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)C1=CC(=CC(=C1)F)F)C1=CC(=CC(=C1)F)F)=O | C25H22F4O2
